US07968552B2
Potassium carbonate was added to a DMF solution of 4-chloro-3′-(chloromethyl)-2-methylbiphenyl and 4-hydroxybenzaldehyde, followed by stirring at room temperature for 20 hours to obtain 4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]benzaldehyde.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-3′-(chloromethyl)-2-methylbiphenyl | ClC1=CC(=C(C=C1)C1=CC(=CC=C1)CCl)C | C14H12Cl2
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-[(4′-chloro-2′-methylbiphenyl-3-yl)methoxy]benzaldehyde | ClC1=CC(=C(C=C1)C1=CC(=CC=C1)COC1=CC=C(C=O)C=C1)C | C21H17ClO2
